US07632850B2
8.1. 2-(3-phenyloxyphenyl)ethanamine
1.38 g (6.59 mmol) of 3-phenoxyphenylacetonitrile and 1.57 g (6.59 mmol) of cobalt(II) chloride hexahydrate are dissolved in 25 ml of methanol. The solution is cooled with an iced water bath and 1.74 g (46 mmol) of sodium borohydride are added in portions. The reaction mixture is stirred overnight at ambient temperature. It is filtered on paper and rinsed with twice 25 ml of methanol. The filtrate is concentrated under reduced pressure and the residue is taken up in 50 ml of aqueous hydrochloric acid (1N) and 25 ml of ether. After distinct phases have separated out they are separated. The aqueous phase is washed with three times 25 ml of ether. The aqueous phase is rendered alkaline with 10 ml of aqueous 36% sodium hydroxide and extracted with three times 50 ml of dichloromethane. The extracts are washed with saturated aqueous sodium chloride solution and dried over sodium sulphate and the filtrate is concentrated under reduced pressure. This gives 0.67 g of product in the form of a brown-orange oil, which is used as it is in the following step.

reactant | 3-phenoxyphenylacetonitrile | 6.59 mmol, 1.38 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC#N | C14H11NO
reactant | sodium borohydride | 46 mmol, 1.74 g | [BH4-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
catalyst | cobalt(II) chloride hexahydrate | 6.59 mmol, 1.57 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 2-(3-phenyloxyphenyl)ethanamine | C1(=CC=CC=C1)OC=1C=C(C=CC1)CCN | C14H15NO
